US05168103
To a flask containing 10% palladium on carbon (2.11 g) under nitrogen was added [3-[[2-(diethoxyphosphinyl)ethyl](2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)-amino]propyl]carbamic acid phenylmethyl ester (2.11 g, 4.2 mmol) in absolute ethanol (180 mL), followed by 1,4-cyclohexadiene (4.3 mL, 45 mmol). After stirring for 5 hours, the reaction mixture was filtered through Celite® and concentrated in vacuo to yield a crude solid, which was recrystallized from methanol and ethyl acetate (total volume=20 mL), filtered, and washed with hexane to afford [2-(8,9-dioxo-2,6-diazabicyclo[5.2.0]non-1(7)-en-2-yl)ethyl]phosphonic acid diethyl ester hemihydrate as a cream colored solid (0.82 g, 62%, mp 148°-149° C.); IR (KBr, cm-1): 1810; 1H NMR (CDCl3, 400 MHz): δ 7.50 (br s, NH), 4.18-4.10 (m, 4H), 4.09-4.00 (m, 2H), 3.51-3.46 (m, 4H), 2.19 (d of t, J=18 and 7.5 Hz, 2H), 2.10-2.04 (m, 2H), 1.34 (t, J=7 Hz, (6H).

reactant | [3-[[2-(diethoxyphosphinyl)ethyl](2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)-amino]propyl]carbamic acid phenylmethyl ester | 4.2 mmol, 2.11 g | C1(=CC=CC=C1)COC(NCCCN(C1=C(C(C1=O)=O)OCC)CCP(=O)(OCC)OCC)=O | C23H33N2O8P
reactant | 1,4-cyclohexadiene | 45 mmol, 4.3 mL | C1=CCC=CC1 | C6H8
catalyst | palladium on carbon | 2.11 g | [Pd] | Pd
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | [2-(8,9-dioxo-2,6-diazabicyclo[5.2.0]non-1(7)-en-2-yl)ethyl]phosphonic acid diethyl ester hemihydrate | 0.82 g, 62% | O.C(C)OP(OCC)(=O)CCN1C=2C(C(C2NCCC1)=O)=O.O=C1C=2NCCCN(C2C1=O)CCP(OCC)(OCC)=O | InChI=1S/2C13H21N2O5P.H2O/c2*1-3-19-21(18,20-4-2)9-8-15-7-5-6-14-10-11(15)13(17)12(10)16;/h2*14H,3-9H2,1-2H3;1H2
